US09079866B2
5-[2′-(Cyclopropylsulfonyl)-3-fluorobiphenyl-4-yl]pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 1-bromo-2-(cyclopropylsulfonyl)benzene. MS (ESI): mass calcd. for C19H16FN3O2S, 369.09; m/z found, 370.0 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.55-8.49 (m, 1H), 8.33 (s, 1H), 8.13 (dd, J=8.0, 1.2, 1H), 8.11-8.05 (m, 1H), 7.77 (m, 1H), 7.68 (m, 1H), 7.48 (dd, J=7.6, 1.1, 1H), 7.43-7.36 (m, 2H), 2.35-2.26 (m, 1H), 1.04-0.91 (m, 4H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-bromo-2-(cyclopropylsulfonyl)benzene | BrC1=C(C=CC=C1)S(=O)(=O)C1CC1 | C9H9BrO2S
product | 5-[2′-(Cyclopropylsulfonyl)-3-fluorobiphenyl-4-yl]pyrazin-2-amine | C1(CC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C19H16FN3O2S
